US06355642B1
6-Methoxycarbonyl-2a-(4-bromobutyl)-2a,3,4,5-tetrahydrobenz[cd]-indole-2(1H)-one
A 1.44 g (4.87 mmol) portion of triphosgene was added to 1,2-dichloroethane suspension (30 ml) of aluminum chloride (1.95 g, 14.61 mmol) and the mixture was cooled to 0° C. Thereto was added 30 ml of 1,2-dichloroethane solution containing 1.50 g (1.64 mmol) of 2a-(4-bromobutyl)-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H)-one, subsequently carrying out 2 hours of stirring at 0° C. The reaction solution was mixed with 50 ml of methanol, stirred at a room temperature for 1 hour, extracted with chloroform and then washed with 1 N hydrochloric acid. After drying (Na2SO4), the solvent was evaporated under a reduced pressure, and the thus obtained oily substance was purified by a silica gel column chromatography (300 cc; elution with ethyl acetate-hexane=1:1) and then recrystallized from ethyl acetate-hexane to obtain 0.63 g of the title compound (35% in yield).

reactant | triphosgene | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 1,2-dichloroethane | 30 ml | ClCCCl | C2H4Cl2
reactant | aluminum chloride | 14.61 mmol, 1.95 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1,2-dichloroethane | 30 ml | ClCCCl | C2H4Cl2
reactant | 2a-(4-bromobutyl)-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H)-one | 1.64 mmol, 1.50 g | BrCCCCC12C(NC=3C=CC=C(C13)CCC2)=O | C15H18BrNO
solvent | methanol | 50 ml | CO | CH4O
product | 6-Methoxycarbonyl-2a-(4-bromobutyl)-2a,3,4,5-tetrahydrobenz[cd]-indole-2(1H)-one | 0.63 g, 35% | COC(=O)C1=C2C=3C(C(NC3C=C1)=O)(CCC2)CCCCBr | C17H20BrNO3
